US07214686B2
2-(4-Oxanyl)ethanol
To a stirring suspension of lithium aluminum hydride (5.10 g, 138 mmol) in THF (200 mL) at 0° C. was added drop-wise a solution of ethyl 2-(4-oxanyl)acetate (22.0 g, 138 mmol) in THF (50 mL). The reaction mixture was then heated at reflux overnight. After cooling the mixture in an ice bath, ether (300 mL) was added, followed by drop-wise addition of 5N NaOH, until the formation of heavy white precipitate is complete. The suspension was filtered and the filtrate dried (K2CO3), filtered and concentrated by rotary evaporation to give a colorless liquid (17.7 g, 100%).

reactant | lithium aluminum hydride | 138 mmol, 5.10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2-(4-oxanyl)acetate | 138 mmol, 22.0 g | O1CCC(CC1)CC(=O)OCC | C9H16O3
reactant | ether | 300 mL | CCOCC | C4H10O
reactant | NaOH | 5N | [OH-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(4-Oxanyl)ethanol | 17.7 g, 100% | O1CCC(CC1)CCO | C7H14O2
